US07994189B2
a) 4-(3-Bromo-4-hydroxy-5-methoxyphenyl-2-methyl-5-oxo-7-phenyl-1,4,5,6,7,8-hexahydroquinoline-3-carbonitrile
A mixture of 5-phenylcyclohexane-1,3-dione (0.51 g), 3-bromo-5-methoxy-4-hydroxybenzaldehyde (0.62 g) and 3-aminocrotonitrile (0.22 g) in 20 mL absolute ethanol was stirred at 75° C. for 3 h. The reaction mixture was concentrated and the title compound was obtained as a off-white solid after flash column chromatography (silica gel, heptane/ethyl acetate (3/7, v/v), Rf=0.36).

reactant | 5-phenylcyclohexane-1,3-dione | 0.51 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | 3-bromo-5-methoxy-4-hydroxybenzaldehyde | 0.62 g | BrC=1C=C(C=O)C=C(C1O)OC | C8H7BrO3
reactant | 3-aminocrotonitrile | 0.22 g | C/C(=C\C#N)/N | C4H6N2
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | 3-Bromo-4-hydroxy-5-methoxyphenyl-2-methyl-5-oxo-7-phenyl-1,4,5,6,7,8-hexahydroquinoline-3-carbonitrile | BrC=1C=C(C=C(C1O)OC)N1C(=C(CC=2C(CC(CC12)C1=CC=CC=C1)=O)C#N)C | C24H21BrN2O3
